US08383821B2
tert-Butyl 4-(((4′-cyano-5-(trifluoromethyl)biphenyl-3-yl)methoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate.
tert-Butyl 4-((3-bromo-5-(trifluoromethyl)benzyloxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate (130.0 mg, 0.24 mmol), 4-cyanophenylboronic acid (140.0 mg, 0.95 mmol), and tetrakis(triphenylphosphine) palladium(0) (37.1 mg, 0.024 mmol) were combined in dry tetrahydrofuran (3 mL) in a microwave tube and sealed. The mixture was flushed with nitrogen. To this was added potassium hydroxide (1 N in water, 0.75 mL, 0.75 mmol). The mixture was heated at 120° C. for 1 h via microwave. After cooling to room temperature, the reaction mixture was concentrated and purified by flash chromatography on silica gel (25% ethyl acetate/hexanes) to afford 61.0 mg (48%). 1H-NMR (CDCl3, 500 MHz) δ 7.74-7.76 (m, 2H), 7.67 (s, 1H), 7.57-7.60 (m, 2H), 7.41 (s, 1H), 7.40 (s, 1H), 7.29-7.32 (m, 2H), 6.98-7.02 (m, 2H), 4.47 (s, 2H), 3.71-3.74 (m, 2H), 3.43 (s, 2H), 3.01-3.06 (m, 2H), 2.14-2.17 (m, 2H), 1.82-1.88 (m, 2H), 1.42 (s, 9H). Mass spec.: 569.25 (MH)+.

reactant | tert-Butyl 4-((3-bromo-5-(trifluoromethyl)benzyloxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | 0.24 mmol, 130.0 mg | BrC=1C=C(COCC2(CCN(CC2)C(=O)OC(C)(C)C)C2=CC=C(C=C2)F)C=C(C1)C(F)(F)F | C25H28BrF4NO3
reactant | 4-cyanophenylboronic acid | 0.95 mmol, 140.0 mg | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
reactant | potassium hydroxide | 0.75 mmol, 1 N, 0.75 mL | [OH-].[K+]
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.024 mmol, 37.1 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | tert-Butyl 4-(((4′-cyano-5-(trifluoromethyl)biphenyl-3-yl)methoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | C(#N)C1=CC=C(C=C1)C1=CC(=CC(=C1)C(F)(F)F)COCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F | C32H32F4N2O3
